US05665719
N-t-Butyloxycarbonyl-3-piperidinylmethanol was etherified with ethyl 4-hydroxybenzoate using the DEAD/triphenylphosphine procedure given in Step 1 of Example 25. The crude product was purified by pressurized silica gel column chromatography using a gradient elution of 10-25% EtOAc-hexanes. 4-(N-t-Butyloxycarbonyl-3-piperidinylmethoxy)benzoic acid ethyl ester was obtained as an oil (58% yield).

reactant | N-t-Butyloxycarbonyl-3-piperidinylmethanol | C(C)(C)(C)OC(=O)N1CC(CCC1)CO | C11H21NO3
reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | DEAD triphenylphosphine | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(N-t-Butyloxycarbonyl-3-piperidinylmethoxy)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)OCC1CN(CCC1)C(=O)OC(C)(C)C)=O | C20H29NO5
